* Testcase 000793 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVDD VDD 0 1.8
VVSS VSS 0 0
VVB4 VB4 0 0.9900000000000001
VVB3 VB3 0 0.9900000000000001
VVB2 VB2 0 0.54
VVIN VIN 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)

* Circuit
XM11 VOP VB4 VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM7 B VB4 VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM8 N1 VB4 VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM12 VON VB4 VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM5 A VB3 B VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM6 N2 VB3 N1 VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM3 A VB2 N3 VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM4 N2 VB2 N4 VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM1 N3 VIP N7 VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM2 N4 VIN N7 VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM13 N7 VCF1 VSS VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM14 N7 VCF1 VSS VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM9 VOP A N5 VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM10 VON N2 N6 VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM15 N5 VCF2 VSS VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM16 N6 VCF2 VSS VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
CC1 VOP N3 1p
CC2 N4 VON 1p
CC3 VOP B 1p
CC4 N1 VON 1p

.control
set filetype=ascii

op
let vdd_current = abs(i(VVDD))
let power_dc = vdd_current * 1.8
print power_dc

print all

let vout_dc = v(VOP)
print vout_dc
let vout_dc = v(VOP)
print vout_dc
quit
.endc

.end
